US08389764B2
2) tert-Butyl[(S)-2-cyclohexyl-1-((1R,2S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]hept-2-ylcarbamoyl)-ethyl]-carbamate
3.53 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (18.4 mmol, 1.0 equiv.), 1.25 g of 1-hydroxybenzotriazole (9.2 mmol, 0.5 equiv.) and 7.3 ml of Hünig's base were added to a solution of 5.0 g of (S)-2-tert-butoxycarbonylamino-3-cyclohexylpropionic acid (Boc-Cha-OH, 18.4 mmol, 1.0 equiv.) in DMF (60 ml) at 0° C. under argon, and the mixture was stirred for 30 min. Then 2.83 g of (R)-(+)-bornylamine (18.4 mmol, 1.0 equiv.) and 3.7 ml of Hünig's base were added, and the mixture was stirred at RT for 16 h. The reaction mixture was quenched with NaHCO3 (saturated, aq.) and extracted three times with ethyl acetate. The combined organic phases were washed twice with water and dried over Na2SO4 and concentrated. Purification by flash chromatography on silica gel with heptane/ethyl acetate mixtures as eluent afforded 6.58 g (88% yield) of the title compound as a colorless oil.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 18.4 mmol, 3.53 g, 1.0 equiv. | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 9.2 mmol, 1.25 g, 0.5 equiv. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Hünig's base | 7.3 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-tert-butoxycarbonylamino-3-cyclohexylpropionic acid | 18.4 mmol, 5.0 g, 1.0 equiv. | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C14H25NO4
reactant | (R)-(+)-bornylamine | 18.4 mmol, 2.83 g, 1.0 equiv. | [C@]12(C(CC(CC1)C2(C)C)N)C | C10H19N
reactant | Hünig's base | 3.7 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | tert-Butyl[(S)-2-cyclohexyl-1-((1R,2S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]hept-2-ylcarbamoyl)-ethyl]-carbamate | 6.58 g, 88% yield | C(C)(C)(C)OC(N[C@@H](CC1CCCCC1)C(N[C@@H]1[C@@]2(CC[C@H](C1)C2(C)C)C)=O)=O | C24H42N2O3
